US03996216
40.8 ml. of acetic anhydride are cooled to 0°-5° and 54.4 ml. of formic acid are added dropwise with stirring at this temperature. The mixture is let stand for 30 minutes at this temperature and then 15.2 g. (0.1 mol.) of D-phenylglycine are added. After about 10 minutes, a clear solution results and after an additional 15 minutes α-(formylamino)benzeneacetic acid crystallizes. The temperature is allowed to rise to room temperature and 300 ml. of ice water are added. The mixture is then stirred for five minutes, filtered under suction, washed with water and dried, yield 11.4 g., m.p. 170°-175°. The product, α-(formylamino)benzeneacetic acid, is recrystallized from ethanol. The melting point remains unchanged.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | D-phenylglycine | 0.1 mol | C1=CC=C(C=C1)[C@H](C(=O)O)N | C8H9NO2
solvent | formic acid | C(=O)O | CH2O2
product | α-(formylamino)benzeneacetic acid | C(=O)NC(C(=O)O)C1=CC=CC=C1 | C9H9NO3
